US08466255B2
Synthetic preparation of 1,3-distearoylglycerol
3.0 g of dihydroxyacetone dimer, 22.7 g of stearic acid, 16.8 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride salt, and 10.8 g of 4-dimethylaminopyridine were dissolved in 100 mL of dichloromethane, for overnight reaction under agitation at ambient temperature. Adding 0.5 L of methanol to the reaction solution, the generated powder was filtered and recovered. The powder recovered by filtration was washed with methanol. After the washed powder was dried, 6 g of the dried powder was dissolved in a mixture solution of 400 mL of tetrahydrofuran and 20 mL of aqueous 10% acetic acid solution, to which 1.1 g of sodium borohydride was added in small portions at 0° C. Subsequently, the resulting mixture was agitated at ambient temperature for 6 hours to promote the reaction. The resulting reaction solution was poured in saturated aqueous sodium hydrogen carbonate, for extraction in ethyl acetate. After the organic layer was dried, the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography, to obtain 3.5 g of the intended product.

reactant | dihydroxyacetone dimer | 3.0 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | stearic acid | 22.7 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride salt | 16.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | methanol | 0.5 L | CO | CH4O
catalyst | 4-dimethylaminopyridine | 10.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-distearoylglycerol | 3.5 g | C(CCCCCCCCCCCCCCCCC)(=O)OCC(O)COC(CCCCCCCCCCCCCCCCC)=O | C39H76O5
